US08372837B2
Step C. Preparation of 4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridine-2(1H)-one
A stirring suspension of 4-hydroxypyridin-2(1H)-one (5.23 g, 47.1 mmol, Aldrich), 1-(5-propylpyrimidin-2-yl)piperidin-4-ylmethanesulfonate (11.7 g, 39.2 mmol), potassium carbonate (12.5 g, 90.0 mmol, EMD) and DMSO (48 mL) was heated at 100° C. for 3 hours and then cooled to room temperature. The resulting mixture was diluted with H2O and extracted with EtOAc (2×). The organic layers were combined and concentrated in vacuo to a brown solid. The solid was purified by flash chromatography (SiO2, 100% EtOAc and then SiO2, 10% MeOH in CH2Cl2) to yield 5.00 g of desired product as an off-white solid. MS (ESI) 315 (M+H).

reactant | 4-hydroxypyridin-2(1H)-one | 47.1 mmol, 5.23 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | 1-(5-propylpyrimidin-2-yl)piperidin-4-ylmethanesulfonate | 39.2 mmol, 11.7 g | C(CC)C=1C=NC(=NC1)N1CCC(CC1)CS(=O)(=O)[O-]
reactant | potassium carbonate | 90.0 mmol, 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 48 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridine-2(1H)-one | 5.00 g | C(CC)C=1C=NC(=NC1)N1CCC(CC1)OC1=CC(NC=C1)=O | C17H22N4O2
